US09238639B2
Methyl(6-((2,6-dimethylpyridin-3-yl)methoxy)-4-(hydroxymethyl)-1-benzothiophen-3-yl)acetate
To a solution of methyl 2-(6-((2,6-dimethylpyridin-3-yl)methoxy)-4-formyl-1-benzothiophen-3-yl)acetate (140 mg, 0.38 mmol) in MeOH (3 mL) was added NaBH4 (21.51 mg) at 0° C. After stirring at 0° C. for 1 h, the mixture was quenched with saturated aqueous NH4Cl at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with saturated aqueous NH4Cl and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (17.2 mg).

reactant | methyl 2-(6-((2,6-dimethylpyridin-3-yl)methoxy)-4-formyl-1-benzothiophen-3-yl)acetate | 0.38 mmol, 140 mg | CC1=NC(=CC=C1COC1=CC2=C(C(=CS2)CC(=O)OC)C(=C1)C=O)C | C20H19NO4S
reactant | NaBH4 | 21.51 mg | [BH4-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | Methyl(6-((2,6-dimethylpyridin-3-yl)methoxy)-4-(hydroxymethyl)-1-benzothiophen-3-yl)acetate | 17.2 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC=2C(=NC(=CC2)C)C)CO)=O | C20H21NO4S
